US07691882B2
4-Fluoro-2-(4-(2-nitro-ethyl)-benzyloxy)-pyridine
To an acetic acid (1.7 mL) and dimethyl sulfoxide (29 mL) solution of 4-fluoro-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine (1.72 g, 6.27 mmol) described in Manufacturing Example 59-1-3 was added sodium borohydride (380 mg, 10 mmol) at room temperature while cooling appropriately. This mixture was stirred for 5 hours at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1-1:1) to obtain the title compound (960 mg, 55%).

reactant | acetic acid | 1.7 mL | C(C)(=O)O | C2H4O2
reactant | 4-fluoro-2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | 6.27 mmol, 1.72 g | FC1=CC(=NC=C1)OCC1=CC=C(C=C1)\C=C\[N+](=O)[O-] | C14H11FN2O3
reactant | sodium borohydride | 10 mmol, 380 mg | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 29 mL | CS(=O)C | C2H6OS
product | 4-Fluoro-2-(4-(2-nitro-ethyl)-benzyloxy)-pyridine | 960 mg, 55% | FC1=CC(=NC=C1)OCC1=CC=C(C=C1)CC[N+](=O)[O-] | C14H13FN2O3
